US06136823
Synthesis of 3-Chloro-2,4,5-trifluoro-6-methylbenzoic Acid
A 1.69 M hexane solution (14 ml) of n-butyllithium was added dropwise to a solution of diisopropylamine (3.6 ml) in tetrahydrofuran (15 ml) at -65° C. in a nitrogen gas stream, and the mixture was stirred at the same temperature for 15 minutes. A solution of 3-chloro-2,4,5-trifluorobenzoic acid (2.1 g) in tetrahydrofuran (15 ml) was added dropwise to the reaction mixture at -60° C., and the mixture was stirred at the same temperature for 15 minutes. Methyl iodide (1.9 ml) was added dropwise at -70° C., and the resultant mixture was stirred for 30 minutes at the same temperature and for 30 minutes at room temperature. Diethyl ether and water were added to the reaction mixture to conduct liquid separation. A water layer was collected, to which 12N hydrochloric acid was added to acidify the water layer. The water layer was then extracted with diethyl ether. An organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain the title compound (2.3 g) as an oil.

reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 3.6 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3-chloro-2,4,5-trifluorobenzoic acid | 2.1 g | ClC=1C(=C(C(=O)O)C=C(C1F)F)F | C7H2ClF3O2
reactant | Methyl iodide | 1.9 ml | CI | CH3I
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | Diethyl ether | C(C)OCC | C4H10O
solvent | hexane | 1.69 M, 14 ml | CCCCCC | C6H14
product | 3-Chloro-2,4,5-trifluoro-6-methylbenzoic Acid | 2.3 g | ClC=1C(=C(C(=O)O)C(=C(C1F)F)C)F | C8H4ClF3O2
